US05140011
0.4 g (0.5 mmol) of (S)-N-[(1S,2S,4S)-4-benzoyl-1-(cyclohexylmethyl)-2-hydroxy-5-methylhexyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]-3-t-butoxycarbonylimidazole-4-propionamide is dissolved in 5 ml of methylene chloride and treated with 2 ml of 90% trifluoroacetic acid and stirred at room temperature for 4 hours. Thereafter, the reaction mixture is poured into 2N sodium bicarbonate solution and extracted with methylene chloride. The methylene chloride extracts are dried over potassium carbonate and evaporated under reduced pressure. Chromatography of the residue on 8 g of silica gel with a mixture of methylene chloride and isopropanol as the eluting agent yields 0.087 g of (S)-N-[(1S,2S,4S)-4-benzoyl-1-(cyclohexylmethyl)-2-hydroxy-5-methylhexyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl]hyrocinnamamido]imidazole-4-propionamide as an amorphous solid, MS: 699 (M+H)+.

reactant | (S)-N-[(1S,2S,4S)-4-benzoyl-1-(cyclohexylmethyl)-2-hydroxy-5-methylhexyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl)hydrocinnamamido]-3-t-butoxycarbonylimidazole-4-propionamide | 0.5 mmol, 0.4 g | C(C1=CC=CC=C1)(=O)[C@@H](C[C@@H]([C@H](CC1CCCCC1)NC([C@H](CC=1N(C=NC1)C(=O)OC(C)(C)C)NC([C@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)=O)O)C(C)C | C47H66N4O7
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 2N | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | (S)-N-[(1S,2S,4S)-4-benzoyl-1-(cyclohexylmethyl)-2-hydroxy-5-methylhexyl]-α-[(R)-α-(3,3-dimethyl-2-oxobutyl]hyrocinnamamido]imidazole-4-propionamide | 0.087 g | C(C1=CC=CC=C1)(=O)[C@@H](C[C@@H]([C@H](CC1CCCCC1)NC([C@H](CC=1N=CNC1)NC([C@H](CC1=CC=CC=C1)CC(C(C)(C)C)=O)=O)=O)O)C(C)C | C42H58N4O5
